US07855166B2
N-(tert-Butyl)-2-methoxybenzenesulfonamide
A solution of 30.00 g (145.17 mmol) of 2-methoxybenzenesulfonyl chloride in 150 ml of dichloromethane is admixed dropwise at 5-10° C. with 22.30 g (304.87 mmol) of tert-butylamine. The mixture is then stirred at room temperature for 2 h. Following extraction with water, the organic phase is dried over sodium sulfate and evaporated to dryness. This gives 31.10 g (88% of theory) of N-(tert-butyl)-2-methoxybenzenesulfonamide.

reactant | 2-methoxybenzenesulfonyl chloride | 145.17 mmol, 30.00 g | COC1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | tert-butylamine | 304.87 mmol, 22.30 g | C(C)(C)(C)N | C4H11N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | N-(tert-Butyl)-2-methoxybenzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)OC | C11H17NO3S
